US07521455B2
3-{4-(1-ethyl-4-piperidinyloxy)phenyl}-2-methyl-4(3H)-quinazolinone
2-methyl-3-[4-(4-piperidinyloxy)phenyl]-4(3H)-quinazolinone (50 mg, 0.15 mmol), ethyl iodide (23 mg, 0.15 mmol) and potassium carbonate (0.30 mmol) were mixed in dimethylformamide (1 mL), and stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure, ethyl acetate and 1N sodium hydroxide aqueous solution was added, and the mixture was extracted with ethyl acetate. The organic phase was washed with distilled water, dried with anhydrous sodium sulfate, and the product was purified by silica gel column chromatography (chloroform/methanol=30/1) to obtain the title compound (25 mg, 46%) as a colorless solid.

reactant | 2-methyl-3-[4-(4-piperidinyloxy)phenyl]-4(3H)-quinazolinone | 0.15 mmol, 50 mg | CC1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)OC1CCNCC1)=O | C20H21N3O2
reactant | ethyl iodide | 0.15 mmol, 23 mg | C(C)I | C2H5I
reactant | potassium carbonate | 0.30 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-{4-(1-ethyl-4-piperidinyloxy)phenyl}-2-methyl-4(3H)-quinazolinone | 25 mg, 46% | C(C)N1CCC(CC1)OC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C | C22H25N3O2
